US07312236B2
N-(3-(4-Dimethylamino-cyclohex-1-enyl)-phenyl)-2,4,6-trifluoro-benzamide hydrochloride salt
Using a method similar to example 1, using 2,4,6-trifluorobenzoyl chloride (127 mg, 0.655 mmol) and 3-(4-dimethylamino-cyclohex-1-enyl)-phenylamine (preparation 2, 118 mg, 0.545 mmol) provides the title compound (free base, 180 mg, 88%). Free base: MS (ES): m/z=375.2 (M+H)+; 1H NMR (CDCl3): δ 7.78 (s, br, 1H), 7.67 (s, 1H), 7.48 (d, 1H), 7.32 (t, 1H), 7.22 (d, 1H), 6.78 (m, 2H), 6.12 (m, 1H), 2.50 (m, 4H), 2.37 (s, 6H), 2.15 (m, 2H), 1.57 (m, 1H). Hydrochloride salt: Anal. cal'd for C21H21F3N2O.HCl.H2O: C, 58.81; H, 5.64; N, 6.53. Found: C, 58.95; H, 5.30; N, 6.55.

reactant | 2,4,6-trifluorobenzoyl chloride | 0.655 mmol, 127 mg | FC1=C(C(=O)Cl)C(=CC(=C1)F)F | C7H2ClF3O
reactant | 3-(4-dimethylamino-cyclohex-1-enyl)-phenylamine | 0.545 mmol, 118 mg | CN(C1CC=C(CC1)C=1C=C(C=CC1)N)C | C14H20N2
product | N-(3-(4-Dimethylamino-cyclohex-1-enyl)-phenyl)-2,4,6-trifluoro-benzamide hydrochloride salt | 180 mg, 88% | Cl.CN(C1CC=C(CC1)C=1C=C(C=CC1)NC(C1=C(C=C(C=C1F)F)F)=O)C | InChI=1S/C21H21F3N2O.ClH/c1-26(2)17-8-6-13(7-9-17)14-4-3-5-16(10-14)25-21(27)20-18(23)11-15(22)12-19(20)24;/h3-6,10-12,17H,7-9H2,1-2H3,(H,25,27);1H
